US06635657B1
A. Methyl 2-(4-tert-butylbenzoylamino)benzoate
To a stirring solution of methyl 2-aminobenzoate (5 g, 33.1 mmol) and pyridine (5.3 g, 66 mmol) in dichloromethane (100 mL) was added 4-dimethylaminopyridine (0.2 g, 1.6 mmol). The mixture was cooled to 0° C. and treated with 4-tert-butylbenzoyl chloride (6.5 g, 33.1 mmol). After stirring overnight, the reaction mixture was diluted with dichloromethane (100 mL)and washed twice with 1 M aqueous citric acid (100 mL). The organic layer was then washed sequentially with water (100 mL) and 5 N aqueous HCl. It was dried over MgSO4, filtered and concentrated in vacuo to give 10.68 g (quantitative) of a colorless oil.

reactant | methyl 2-aminobenzoate | 33.1 mmol, 5 g | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | pyridine | 66 mmol, 5.3 g | N1=CC=CC=C1 | C5H5N
reactant | 4-tert-butylbenzoyl chloride | 33.1 mmol, 6.5 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.6 mmol, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl 2-(4-tert-butylbenzoylamino)benzoate | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)OC)C=CC=C2)C=C1 | C19H21NO3
